US07790730B2
Synthesized as described above for 8-(2-fluorophenyl)-purine, except that 2,3-difluorobenzoic acid was used instead of 2-fluorobenzoic acid (white powder, yield: 45.7%)

reactant | 8-(2-fluorophenyl)-purine | FC1=C(C=CC=C1)C1=NC2=NC=NC=C2N1 | C11H7FN4
reactant | 2,3-difluorobenzoic acid | FC1=C(C(=O)O)C=CC=C1F | C7H4F2O2
product | 2-fluorobenzoic acid | yield: 45.7% | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
